US06806274B1
1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea
A solution of 4-amino-4-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (150 mg) in DMF (4.5 ml) was added to sodium hydride (60% dispersion in mineral oil, 0.03 g) and the reaction mixture was stirred at ambient temperature for 20 minutes. 2,6-Dimethylphenyl isothiocyanate (0.162 g) was added and the mixture was stirred at ambient temperature for 20 hours. The action mixture was evaporated and the residual solid was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 2M solution of ammonia in methanol as eluent. There was thus obtained the title compound (0.112 g); NMR Spectrum: (CDCl3) 1.44-1.61 (m, 2H), 1.87-2.08 (m, 5H), 2.32 (s, 3H), 2.36 (s, 6H), 2.94 (d, 2H), 4.04 (m, 5H), 7.1 (s, 1H), 7.19 (m, 3H), 7.29 (s, 1H), 8.69 (s, 1H), 8.9 (s, 1H), 13.37 (s, 1H); Mass Spectrum: M+H+ 466.

reactant | 4-amino-4-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 150 mg | NC1(NC=NC2=CC(=CC=C12)OCC1CCN(CC1)C)OC | C16H24N4O2
reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | 2,6-Dimethylphenyl isothiocyanate | 0.162 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea | 0.112 g | CC1=C(C(=CC=C1)C)NC(=S)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C25H31N5O2S
